US06355636B1
To 800 mg of 4-(3-bromo-phenylamino)-6-trimethylsilanylethynyl-[1.7]naphthyridine-3-carbonitrile in 20 mL of tetrahydrofuran at 0° C. under an inert atmosphere was added 2.5 mL of 1 M tetrabutylammonium fluoride/tetrahydrofaran. After 1 hour at ambient temperature, the reaction was diluted with ethyl acetate and washed with brine. The organic layer was dried with sodium sulfate and evaporated. The product was purified by flash chromatography on silica gel to give 300 mg of 4-(3-bromo-phenylamino)-6-ethynyl-[1.7]naphthyridine-3-carbonitrile: melting point 224° C. (decomposed); mass spectrum (m/e): M+H 349.1, 351.1.

reactant | 4-(3-bromo-phenylamino)-6-trimethylsilanylethynyl-[1.7]naphthyridine-3-carbonitrile | 800 mg | BrC=1C=C(C=CC1)NC1=C(C=NC2=CN=C(C=C12)C#C[Si](C)(C)C)C#N | C20H17BrN4Si
reactant | tetrabutylammonium fluoride | 1 M, 2.5 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(3-bromo-phenylamino)-6-ethynyl-[1.7]naphthyridine-3-carbonitrile | 300 mg | BrC=1C=C(C=CC1)NC1=C(C=NC2=CN=C(C=C12)C#C)C#N | C17H9BrN4
